* D:\DePFET\LCR_meter\Signl generator\signal_generator.asc
XU1 0 N001 N004 N003 N005 N001 N002 N003 NE555
C1 N005 0 0.01µ
C2 N001 0 10µ
R1 N002 N001 2k
R2 N002 N003 1k
V1 N003 0 10
L1 N004 N006 100µH
C3 COM 0 1µF
C4 COM 0 1µF
C5 COM 0 1µf
R3 COM N006 1K
.tran 1s
.include LM324.txt
.lib NE555.sub
.backanno
.end
